US06703509B2
5-Bromo-3-acetoxymethylpyridine is reacted with 4-fluorobenzeneboronic acid as described in Example 1. The 5-(4-fluorophenyl)pyridin-3-ylmethyl acetate obtained is saponified by conventional methods and subsequently oxidized to give 5-(4-fluorophenyl)nicotinic acid.

reactant | 5-Bromo-3-acetoxymethylpyridine | BrC=1C=C(C=NC1)COC(C)=O | C8H8BrNO2
reactant | 4-fluorobenzeneboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 5-(4-fluorophenyl)pyridin-3-ylmethyl acetate | C(C)(=O)OCC=1C=NC=C(C1)C1=CC=C(C=C1)F | C14H12FNO2
